US09169246B2
Step 4.3. 5-(2,2-difluoroethyl)-7-(pyrid-4-yl)-1,5-dihydro-4H-pyrazolo[4,3-c]quinolin-4-one hydrochloride
To a solution of 5-(2,2-difluoroethyl)-7-(pyrid-4-yl)-1-{[2-(trimethylsilyl)ethoxy]methyl}-1,5-dihydro-4H-pyrazolo[4,3-c]quinolin-4-one and 5-(2,2-difluoroethyl)-7-(pyrid-4-yl)-2-{[2-(trimethylsilyl)ethoxy]methyl}-1,5-dihydro-4H-pyrazolo[4,3-c]quinolin-4-one (100 mg, 0.22 mmol) in 2 mL of DCM is added a 4M solution of anhydrous hydrogen chloride in dioxane (1.10 mL, 4.38 mmol) at room temperature. After stirring at room temperature for 24 hours, the mixture is filtered. The solid obtained is taken up in isopropanol, filtered off and dried under vacuum to give 74 mg of a white powder (hydrochloride, yield: 94%).

reactant | 5-(2,2-difluoroethyl)-7-(pyrid-4-yl)-1-{[2-(trimethylsilyl)ethoxy]methyl}-1,5-dihydro-4H-pyrazolo[4,3-c]quinolin-4-one | FC(CN1C(C2=C(C=3C=CC(=CC13)C1=CC=NC=C1)N(N=C2)COCC[Si](C)(C)C)=O)F | C23H26F2N4O2Si
reactant | 5-(2,2-difluoroethyl)-7-(pyrid-4-yl)-2-{[2-(trimethylsilyl)ethoxy]methyl}-1,5-dihydro-4H-pyrazolo[4,3-c]quinolin-4-one | 0.22 mmol, 100 mg | FC(CN1C(C2=C(C=3C=CC(=CC13)C1=CC=NC=C1)NN(C2)COCC[Si](C)(C)C)=O)F | C23H28F2N4O2Si
reactant | hydrogen chloride | Cl | ClH
reactant | dioxane | 4.38 mmol, 1.10 mL | O1CCOCC1 | C4H8O2
solvent | DCM | 2 mL | C(Cl)Cl | CH2Cl2
solvent | isopropanol | C(C)(C)O | C3H8O
product | 5-(2,2-difluoroethyl)-7-(pyrid-4-yl)-1,5-dihydro-4H-pyrazolo[4,3-c]quinolin-4-one hydrochloride | 74 mg, yield: 94% | Cl.FC(CN1C(C2=C(C=3C=CC(=CC13)C1=CC=NC=C1)NN=C2)=O)F | InChI=1S/C17H12F2N4O.ClH/c18-15(19)9-23-14-7-11(10-3-5-20-6-4-10)1-2-12(14)16-13(17(23)24)8-21-22-16;/h1-8,15H,9H2,(H,21,22);1H
